US05892112
reacting maleic anhydride with 2-methylpropene to yield β-methallylsuccinic anhydride;

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 2-methylpropene | CC(=C)C | C4H8
product | β-methallylsuccinic anhydride | C(C(C)=C)C1CC(=O)OC1=O | C8H10O3
